** sch_path: /foss/designs/proj_branch/chipathon-2026-ti-adc/analog/blocks/cdac/caps.sch
.subckt caps Dx_b<0> Dx_b<1> Dx_b<2> Dx_b<3> Vin Dx_b<4> Dx_b<5> GND Dx_b<6> Dx_b<7> VREF Dx<0> phi_s Dx<1> Dx<2> VDD Dx<3> Vx
*+ Dx<4> Dx<5> Vx_lsb Dx<6> Dx<7>
*.ipin Vin
*.ipin GND
*.ipin VREF
*.opin Vx
*.ipin phi_s
*.ipin VDD
*.ipin Dx_b<0>
*.ipin Dx<0>
*.ipin Dx_b<1>
*.ipin Dx_b<2>
*.ipin Dx_b<3>
*.ipin Dx_b<4>
*.ipin Dx_b<5>
*.ipin Dx_b<6>
*.ipin Dx_b<7>
*.ipin Dx<1>
*.ipin Dx<2>
*.ipin Dx<3>
*.ipin Dx<4>
*.ipin Dx<5>
*.ipin Dx<6>
*.ipin Dx<7>
*.opin Vx_lsb
XC1 net2 Vx_lsb cap_mim_2f0fF c_width=2e-6 c_length=2e-6 m=1
XC2 net1 Vx_lsb cap_mim_2f0fF c_width=2.83e-6 c_length=2.83e-6 m=1
XC3 net3 Vx_lsb cap_mim_2f0fF c_width=4e-6 c_length=4e-6 m=1
XC4 net4 Vx_lsb cap_mim_2f0fF c_width=4e-6 c_length=4e-6 m=2
XC5 net5 Vx_lsb cap_mim_2f0fF c_width=4e-6 c_length=4e-6 m=4
XC6 net6 Vx cap_mim_2f0fF c_width=4e-6 c_length=4e-6 m=1
XC7 net7 Vx cap_mim_2f0fF c_width=4e-6 c_length=4e-6 m=2
XC8 net8 Vx cap_mim_2f0fF c_width=4e-6 c_length=4e-6 m=4
XC11 Vx_lsb Vx cap_mim_2f0fF c_width=4.13e-6 c_length=4.13e-6 m=1
x9 net3 VDD Dx<2> Dx_b<2> phi_s VREF Vin GND transistors
x4 net2 VDD Dx<0> Dx_b<0> phi_s VREF Vin GND transistors
x5 net5 VDD Dx<4> Dx_b<4> phi_s VREF Vin GND transistors
x6 net6 VDD Dx<5> Dx_b<5> phi_s VREF Vin GND transistors
x7 net8 VDD Dx<7> Dx_b<7> phi_s VREF Vin GND transistors
x1 net1 VDD Dx<1> Dx_b<1> phi_s VREF Vin GND transistors
x2 net4 VDD Dx<3> Dx_b<3> phi_s VREF Vin GND transistors
x3 net7 VDD Dx<6> Dx_b<6> phi_s VREF Vin GND transistors
XC9 Vx VREF cap_mim_2f0fF c_width=4e-6 c_length=4e-6 m=1
.ends

* expanding   symbol:  /foss/designs/proj_branch/chipathon-2026-ti-adc/analog/blocks/cdac/transistors.sym # of pins=8
** sym_path: /foss/designs/proj_branch/chipathon-2026-ti-adc/analog/blocks/cdac/transistors.sym
** sch_path: /foss/designs/proj_branch/chipathon-2026-ti-adc/analog/blocks/cdac/transistors.sch
.subckt transistors sw_node VREF VDD Vin GND phi_s Dx Dx_b
*.opin sw_node
*.ipin VDD
*.ipin GND
*.ipin Dx
*.ipin Dx_b
*.ipin phi_s
*.ipin VREF
*.ipin Vin
XM6 net1 Dx_b sw_node GND nfet_03v3 L=0.28u W=0.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM7 sw_node VDD net1 VDD pfet_03v3 L=0.28u W=0.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM1 sw_node phi_s Vin VDD pfet_03v3 L=0.28u W=0.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM4 VREF Dx_b sw_node GND nfet_03v3 L=0.28u W=0.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM3 sw_node Dx VREF GND nfet_03v3 L=0.28u W=0.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends

.end
